US06528529B1
4-(4-Butyl-piperazin-1-yl)-butyronitrile (16).
In a 25 mL flask was placed 1-butyl-piperazine (712 mg, 5.0 mmol), 4-bromobutyronitrile (779 mg, 5.3 mmol) and potassium carbonate (687 mg, 5.0 mmol) suspended in acetonitrile (5 mL). The reaction mixture was stirred at rt for 12 h., followed by addition of H2O (20 mL) and extraction with ethyl acetate (3×25 mL). The combined organic phases were washed with brine (25 mL), dried (MgSO4) and evaporated to dryness to produce 0.89 g of crude 16 which was used without further purification in the synthesis of compound 17.

reactant | 1-butyl-piperazine | 5.0 mmol, 712 mg | C(CCC)N1CCNCC1 | C8H18N2
reactant | 4-bromobutyronitrile | 5.3 mmol, 779 mg | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | 5.0 mmol, 687 mg | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 20 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-Butyl-piperazin-1-yl)-butyronitrile | C(CCC)N1CCN(CC1)CCCC#N | C12H23N3
